US07186724B2
3-Piperidin-4-yl-1-(2,2,2-trifluoro-ethyl)-1H-thieno[3,2-c]pyrazole hydrochloride (833906).
4-[1-(2,2,2-Trifluoro-ethyl)-1H-thieno[3,2-c]pyrazol-3-yl]-piperidine-1-carboxylic acid tert-butyl ester (1.9 g, 4.87 mmol) was stirred at room temperature in a solution of HCl (6 mL, 4N HCl in dioxane) for 4 hours. The volatiles were removed in vacuo and the residue was triturated with ether (twice) to yield off white solids 2.1 g (74%) as the desired hydrochloride salt.

reactant | 4-[1-(2,2,2-Trifluoro-ethyl)-1H-thieno[3,2-c]pyrazol-3-yl]-piperidine-1-carboxylic acid tert-butyl ester | 4.87 mmol, 1.9 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1C2=C(N(N1)CC(F)(F)F)C=CS2 | C17H22F3N3O2S
reactant | HCl | 4N, 6 mL | Cl | ClH
product | 3-Piperidin-4-yl-1-(2,2,2-trifluoro-ethyl)-1H-thieno[3,2-c]pyrazole hydrochloride | 2.1 g, 74% | Cl.N1CCC(CC1)C=1C2=C(N(N1)CC(F)(F)F)C=CS2 | InChI=1S/C12H14F3N3S.ClH/c13-12(14,15)7-18-9-3-6-19-11(9)10(17-18)8-1-4-16-5-2-8;/h3,6,8,16H,1-2,4-5,7H2;1H
